US07528274B2
Synthesis of N-[2-(2-Pyridinioethylcarbamylthio)benzoyl]-β-alaninamide bromide
A solution of N -[2-(2-bromoethylcarbamylthio)benzoyl]-β-alaninamide (0.37 g, 1.0 mmol) in pyridine (5 ml) was stirred for 8 h under nitrogen. The pyridine was removed in vacuo, and the crude product was purified by column chromatography on silica using chloroform-methanol(7:3 v/v) as eluent. Yield: 82%. 1H NMR (DMSO-d6): 2.38(t, 2H, CH2), 3.40(q, 2H, CH2), 3.72(q,2H, CH2), 4.72(t, 2H, CH2), 6.92(brs, 1H, NH2), 7.36-7.58(m, 5H, Ar—H, NH2), 8.26(t, 2H, Py-H), 8.36(t, 1H, NH), 8.66(t, 1H, Py-H), 9.12(d, 2H, Py-H).

reactant | N -[2-(2-bromoethylcarbamylthio)benzoyl]-β-alaninamide | 1.0 mmol, 0.37 g | BrCCNC(=O)SC1=C(C(=O)NC(CCN)=O)C=CC=C1 | C13H16BrN3O3S
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(2-Pyridinioethylcarbamylthio)benzoyl]-β-alaninamide bromide | Yield: 82% | [N+]1(=CC=CC=C1)CCNC(=O)SC1=C(C(=O)NC(CCN)=O)C=CC=C1.[Br-] | InChI=1S/C18H20N4O3S.BrH/c19-9-8-16(23)21-17(24)14-6-2-3-7-15(14)26-18(25)20-10-13-22-11-4-1-5-12-22;/h1-7,11-12H,8-10,13,19H2,(H-,20,21,23,24,25);1H
